2166-07-26 14:20:00 Physician Attending Progress Note
Chief Complaint: neck fracture, alcohol withdrawal
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69M fell 2 days ago with LOC and again 1 day ago. This AM presented to
   ER with c/o neck pain. CT showed odontoid and C4 fracture. Transferred
   to [**Hospital1 **] for spine evaluation. Ortho interested in operating though he
   bacame increasingly agitated and restless in ER and was given valium
   for EtOH withdrawal.
   Vitals significant for hypertension and tachycardia. Currently is
   agitated and disoriented at times.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   EtOH and tobacco abuse
   neck arthritis
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough
   Genitourinary: Foley
   Musculoskeletal: neck pain, collar in place
   Flowsheet Data as of  [**2166-7-26**] 02:19 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 95 (95 - 95) bpm
   RR: 20 (20 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
             129 mL
   PO:
             TF:
   IVF:
   129 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    235 mL
   Urine:
   235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -106 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 97%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, no ditress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, abrasion left forehead
   Neck collar in place
   Lungs clear
   Hrt tachy, regular
   Abd benign, soft
   Neurologic: Attentive, Responds to simple questions, Oriented to
   hospital, Movement: moving all 4 extremities
   Labs / Radiology
   3.8
   47
        [image002.jpg]
   Other labs: PT / PTT / INR://nml
   Fluid analysis / Other labs: CK [**2089**]
   trop negative
   Imaging: c-spine CT showing fractures as above
   head Ct negative
   ECG: ST 103, no ischemia
   Assessment and Plan
   EtOH withdrawal - continue valium prn, thiamine, try to avoid
   intubation in light of s-spine fracture
   c-spine fracture - continue collar, eventual surgery once EtOH
   withdrawal clears
   falls - suspect related to EtOH abuse, watch rhythm on monitor
   ICU Care
   Nutrition:  NPO for now
   Glycemic Control:
   Lines:
   18 Gauge - [**2166-7-26**] 01:08 PM
   20 Gauge - [**2166-7-26**] 01:09 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill in light of acute alcohol withdrawal and
   abnormal vital signs

2166-07-27 05:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2166-7-27**] 04:30 AM
   - Admitted to MICU and placed on CIWA scale: valium 10mg q1h prn for
   CIWA >10
   - [**Hospital3 **] records: CXR: Streaky densities at lung bases likely
   atelectasis; otherwise clear. 4:55am CK 2441, MB 8.2, Trop 0.02.
   - Serum tox neg (including EtOH). Urine tox pos for opiates (morphine
   at OSH and here).
   - Transaminitis (AST 100, ALT 65), will trend.
   - CT C-spine with C3-C4 epidural hematoma which does not appear to
   impinge cord but predisposition given diffuse degenerative changes. MRI
   c-spine recommended. Per Ortho-spine, plan for OR [**Last Name (LF) 4879**], [**First Name3 (LF) **] no benefit
   to MRI imaging.
   - Morphine prn for pain control
   - Overnight required valium 10mg q1h. Occasional drop in O2sats;
   thought to have component of OSA and placed on auto-set. Coarser breath
   sounds; CXR appeared clear although earlier T-spine showed right lung
   base atelectasis with proximal mucus plugging. Switched back to face
   mask at 1:30am for agitation.
   - At 2am, increasingly agitated with SBP to 200s and HR in 130s. Given
   valium 20mg, then 20mg at 2:30am with morphine 4mg, 20mg at 2:45am, and
   20mg at 3am. With last dose of valium, drop in O2sats to 40s with only
   transient improvement on NRB. Stat bedside intubation by Anesthesia
   with vecuronium 10cc, propofol bolus; started on midaz/fent. Bronch
   with copious thick secretions. Transitioned to vent. OG tube placed.
   Anesthesia also placed A-line for better monitoring in anticipation of
   OR.
   - AM CXR with bibasilar infiltrates, likely [**2-24**] aspiration. ABG (FiO2
   100%) 7.31/56/116. A-a gradient ?d/t secretions. Increased RR and PEEP.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2166-7-27**] 02:43 AM
   Diazepam (Valium) - [**2166-7-27**] 03:00 AM
   Vecuronium - [**2166-7-27**] 03:15 AM
   Propofol - [**2166-7-27**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-7-27**] 05:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 117 (95 - 132) bpm
   BP: 129/75(94) {126/72(91) - 129/75(94)} mmHg
   RR: 16 (16 - 28) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  1,210 mL
                                                                  1,589 mL
   PO:
             TF:
   IVF:
                                                                  1,210 mL
                                                                  1,589 mL
   Blood products:
   Total out:
                                                                    815 mL
                                                                    331 mL
   Urine:
                                                                    815 mL
                                                                    331 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    395 mL
                                                                  1,258 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   Compliance: 45.8 cmH2O/mL
   SpO2: 96%
   ABG: 7.31/56/116/27/0
   Ve: 8.5 L/min
   PaO2 / FiO2: 116
   Physical Examination
   General: S/p paralytic, sedated
   HEENT: Abrasion over left forehead, ETT with thick secretions, OGT
   Neck: [**Location (un) 1083**] J-collar
   Lungs: Coarse BS b/l
   CV: Tachycardic, regular, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: Soft, obese, non-tender, non-distended, bowel sounds present,
   no rebound tenderness or guarding
   GU: Foley in place
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema,
   abrasion over right knee
   Labs / Radiology
   178 K/uL
   14.9 g/dL
   168 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.8 mEq/L
   12 mg/dL
   106 mEq/L
   142 mEq/L
   43.4 %
   9.0 K/uL
        [image002.jpg]
                             [**2166-7-26**]  03:06 PM
                             [**2166-7-27**]  04:47 AM
                             [**2166-7-27**]  04:57 AM
   WBC
   8.7
   9.0
   Hct
   44.5
   43.4
   Plt
   149
   178
   Cr
   0.6
   0.6
   TropT
   <0.01
   TCO2
   30
   Glucose
   129
   168
   Other labs: PT / PTT / INR:12.9/26.3/1.1, CK / CKMB /
   Troponin-T:1715/9/<0.01, ALT / AST:54/67, Alk Phos / T Bili:66/1.7,
   Lactic Acid:1.2 mmol/L, Albumin:3.8 g/dL, Ca++:8.0 mg/dL, Mg++:1.7
   mg/dL, PO4:3.3 mg/dL
   OSH CT head (final): No acute intracranial pathological process.
   OSH CT c-spine (final):
   1. Transverse, type 2 odontoid fracture, with posterior displacement of
   the C1/odontoid complex and the body of C2 at approximately 7 mm. While
   the fracture line appears somewhat corticated, making this of uncertain
   chronicity in the lack of prior comparisons, prevertebral soft tissue
   swelling suggests an element of acute injury.
   2. Obliquely oriented fracture through the body of C4, with extension
   into the left lamina. There is also fracture of anterior bridging
   osteophytic complex at C3-C4 level. There is exaggerated lordotic
   curvature and distraction of fracture line, and some retropulsion of
   the superior fracture fragment into the canal. There is again
   prevertebral soft tissue swelling at this level.
   3. Diffuse degenerative change, with profuse anterior bridging
   osteophytes and disc osteophyte complexes causing mild-to-moderate
   canal stenosis. This does predispose patient to cord injury, and MRI of
   the cervical spine is recommended to exclude ligamentous involvement
   and cord contusion.
   Addendum: Upon re-examination of the axial sections, the epidural
   hemorrhage may be longitudinally more extensive than localized at C3/4,
   and likely involves more cephalad segments. However, it is still likely
   a relatively thin rind in shape. MR scanning would be helpful in more
   detailed imaging of the cord and dural margins.
   CT T-Spine: 1. No fracture or malalignment. 2. Moderate-to-severe
   degenerative change, characterized by loss of disc height, disc
   calcification, and perfuse bridging marginal osteophyte formation.
   There is no significant canal stenosis. 3. Right lung base atelectasis
   with proximal mucus plugging. Given clinical scenario, aspiration
   should be considered.
   CT L-Spine: 1. No evidence for fracture or malalignment of lumbar
   spine. 2. Degenerative change with diffuse anterior bridging
   osteophytes spanning from L1 through L4. There are multiple
   discontinuities and disc osteophyte complexes, but these appear well
   corticated, and are likely chronic. 3. Diverticulosis without
   diverticulitis.
   Assessment and Plan
   69 yo man with known h/o EtOH abuse p/w to OSH for neck pain s/p falls
   and transferred here for management of cervical spine fractures, now in
   EtOH withdrawal and intubated overnight for respiratory failure.
   .
   # Respiratory failure: No known underlying pulmonary disease although
   COPD possible in setting of long smoking history; reportedly with
   wheezing on exam in ED. Initial desat episodes likely with component
   from OSA with acute respiratory decompension likely due to aspiration
   of secretions in setting of EtOH intoxication with declining ability to
   protect airway exacerbated by benzos for EtOH withdrawal. S/p emergent
   Intubation. CXR appears to have worsened bibasilar infiltrates. A-a
   gradient likely reflective of secretions/mucous plugging.
   - Maintain sedation with versed/fentanyl for now
   - Wean vent as tolerated post-op
   - Abx coverage for aspiration PNA if pt spikes fever
   - NPO with aspiration precautions
   - Albuterol and ipratropium MDI prn
   - Outpt PFTs and sleep apnea evaluation
   # C-spine fractures: CT c-spine from OSH with acute C4 and ?acute on
   chronic odontoid fracture in setting of recent falls. No T/L-spine
   fracture on CT imaging here. Neuro exam nonfocal; currently unable to
   assess s/p paralytic but plan for OR this AM. Pt with moderate
   functional capacity and at low cardiac risk for intermediate risk
   procedure.
   - OR today: NPO, type and crossed x 2 units pRBC, holding heparin
   - [**Location (un) 1083**] J-collar in place
   - Bedrest with log roll precautions; HOB no higher than 45 degrees
   - F/u Ortho-spine recs
   # EtOH withdrawal: Pt with h/o EtOH abuse. Required escalating doses of
   valium overnight eventually limited by respiratory status. Now
   intubated and sedated on versed gtt.
   - MVI, thiamine, folate
   - Monitor electrolytes; replete K, Mg, Phos, Ca prn
   - Keep NPO with aspiration precautions
   - Social Work consult ordered
   # S/p multiple falls: Likely [**2-24**] EtOH intoxication. No h/o seizure
   disorder and withdrawal seizure does not fit time course.  Serum and
   utox screens neg other than for opiates with known narc administration
   prior. OSH CT head with no evidence of intracranial process. Ruled out
   for MI. No arrhythmia overnight on tele.
   - Clarify history with pt when more alert
   - Tx EtOH withdrawal as above
   - Monitor neuro exam
   - Monitor on tele, f/u AM EKG, replete lytes prn
   # Transaminitis: Downtrending. Likely hepatic inflammation in setting
   of EtOH abuse.
   - Trend; no need for further work-up at this time
   # H/o tobacco use: Declined nicotine patch
   # Neck arthritis: On unknown chronic pain med as outpatient.
   - On fentanyl gtt currently
   - Obtain records from PCP/pharmacy re: rx
   ICU Care
   Nutrition: NPO, IVF
   Glycemic Control:
   Lines:
   18 Gauge - [**2166-7-26**] 01:08 PM
   20 Gauge - [**2166-7-26**] 01:09 PM
   Arterial Line - [**2166-7-27**] 04:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Patient. HCP/sister [**Name (NI) 1118**] [**Name (NI) 8571**] (Home [**Telephone/Fax (1) 8572**], cell
   [**Telephone/Fax (1) 8573**])
   Code status: Full code (discussed with HCP)
   Disposition: ICU